US05633248
(2) 3,4-Dihydro-6,7-dimethoxy-4'-methylspiro[naphthalene-2(1H),2'-piperidine]-3',6'-dione
A solution of ethyl 2-[(N-benzyloxycarbonyl-N-methylamino)acetylamino]-1,2,3,4-tetrahydro-6,7-dimethoxynaphthalene-2-carboxylate (550 mg, 1.1 mmol) in ethanol (20 ml) was hydrogenated in the presence of 10% Pd-carbon (250 mg) for 6 hr. The catalyst was filtered off and the filtrate was concentrated in vacuo. The residue was dissolved in 1N sodium hydroxide (2 ml) and THF (10 ml) and heated at 80° C. for 17 hr. The reaction mixture was concentrated in vacuo and the residue was dissolved in ethyl acetate. The solution was washed with water, and sat. sodium chloride, dried, and concentrated in vacuo. The residue was recrystallized from chloroform-isopropylether to give the titled compound (150 mg).

reactant | ethyl 2-[(N-benzyloxycarbonyl-N-methylamino)acetylamino]-1,2,3,4-tetrahydro-6,7-dimethoxynaphthalene-2-carboxylate | 1.1 mmol, 550 mg | C(C1=CC=CC=C1)OC(=O)N(C)CC(=O)NC1(CC2=CC(=C(C=C2CC1)OC)OC)C(=O)OCC | C26H32N2O7
reactant | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd carbon | 250 mg | [Pd].[C]
product | 3,4-Dihydro-6,7-dimethoxy-4'-methylspiro[naphthalene-2(1H),2'-piperidine]-3',6'-dione | 150 mg | COC=1C=C2CCC3(NC(CC(C3=O)C)=O)CC2=CC1OC | C17H21NO4
